US08859580B2
(2R,6R,11S)-6,11-Dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3,8-dicarboxylic acid 3-tert-butyl ester
4 M aqueous NaOH solution (18.5 mL) is added to a solution of (2R,6R,11S)-6,11-dimethyl-3-(2,2,2-trifluoro-acetyl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxylic acid methyl ester (5.2 g) in methanol (40 mL). The solution is stirred at room temperature overnight. After neutralization of the solution with MeCOOH, NEt3 (10 mL) and THF (20 mL) are added and the solution is cooled in an ice bath. Then, di-tertbutyl dicarbonate (4.0 g) is added, the cooling bath is removed, and the solution is stirred at ambient temperature overnight. 1 M aqueous HCl solution (30 mL) is added and the resulting mixture is extracted with ethyl acetate. The combined organic extracts are washed with brine and dried (MgSO4).

reactant | NaOH | 4 M, 18.5 mL | [OH-].[Na+]
reactant | (2R,6R,11S)-6,11-dimethyl-3-(2,2,2-trifluoro-acetyl)-1,2,3,4,5,6-hexahydro-2,6-methano-benzo[d]azocine-8-carboxylic acid methyl ester | 5.2 g | COC(=O)C1=CC2=C(C[C@H]3N(CC[C@@]2([C@@H]3C)C)C(C(F)(F)F)=O)C=C1 | C18H20F3NO3
reactant | MeCOOH | CC(=O)O | C2H4O2
reactant | di-tertbutyl dicarbonate | 4.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 40 mL | CO | CH4O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | NEt3 | 10 mL | CCN(CC)CC | C6H15N
product | (2R,6R,11S)-6,11-Dimethyl-1,2,5,6-tetrahydro-4H-2,6-methano-benzo[d]azocine-3,8-dicarboxylic acid 3-tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H]2CC3=C([C@](CC1)([C@@H]2C)C)C=C(C=C3)C(=O)O | C20H27NO4
